US20010037025A1
To a stirred solution of diethylzinc (0.59 mL, 5.2 mmol) dichloroethane (15 mL) in an ice bath was added, dropwise, chloroiodoethane (0.76 mL, 10.4 mmol) forming a white suspension. After 10 min 3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-cyclopent-2-enol (1.0 g, 3.5 mmol) in dichloroethane (5 mL) was added and the reaction stirred at this temperature for 5 min. The reaction mixture was diluted with diethyl ether and saturated ammonium chloride (8 mL) was added. The ether phase was washed with water and dried over sodium sulphate, and concentrated to give a residue, which was purified by flash chromatography (eluant 4 hexane:1 ethyl acetate) to give 5-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-bicyclo[3.1.0]hexan-2-ol (0.51 g, 49%).

reactant | 3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-cyclopent-2-enol | 3.5 mmol, 1.0 g | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C1=CC(CC1)O | C20H28O
reactant | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ammonium chloride | 8 mL | [Cl-].[NH4+]
product | 5-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-bicyclo[3.1.0]hexan-2-ol | 0.51 g, 49% | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C12CCC(C2C1)O | C21H30O
